US06043254
(b) 4-(4-amino-phenyl)-2-methyl-imidazole
Prepared by hydrogenation of 2-methyl-4-(4-nitro-phenyl)-imidazole in MeOH on palladium/charcoal (10%) at 20° C. and 3.5 bar.

reactant | 2-methyl-4-(4-nitro-phenyl)-imidazole | CC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
solvent | MeOH | CO | CH4O
product | 4-(4-amino-phenyl)-2-methyl-imidazole | NC1=CC=C(C=C1)C=1N=C(NC1)C | C10H11N3
